US08404679B2
e) N-{(3RS,4SR)-4-(3,4-Dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide
To a solution of {4-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone (200 mg, 0.456 mmol) in THF (2 mL) was added N,N-diisopropyl ethyl amine (117 μl, 0.684 mmol), 4-methoxy-3-(trifluoromethyl)benzoyl chloride (131 mg, 0.547 mmol) and stirred for 4 h at ambient temperature. The reaction mixture was diluted with ethzl acetatec (10 mL) and was washed with an aqueous solution of sodium carbonate (1 M, 10 mL), water (10 mL) and brine (10 mL). The aqueous layers were extracted with ethyl acetate (20 mL) and the combined organic layers were dried over sodium sulfate. Purification by chromatography (SiO2, heptane:ethyl acetate:methanol=50:50:0 to 0:90:10) afforded the title compound (230 mg, 79%) as a colorless oil. MS m/e: 640.3 [M]+.

reactant | {4-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone | 0.456 mmol, 200 mg | ClC=1C=C(C=CC1Cl)C1CN(CC1NC)C(=O)C1CCN(CC1)C(=O)C1(CC1)C | C22H29Cl2N3O2
reactant | N,N-diisopropyl ethyl amine | 0.684 mmol, 117 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-methoxy-3-(trifluoromethyl)benzoyl chloride | 0.547 mmol, 131 mg | COC1=C(C=C(C(=O)Cl)C=C1)C(F)(F)F | C9H6ClF3O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-{(3RS,4SR)-4-(3,4-Dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | 230 mg, 79% | ClC=1C=C(C=CC1Cl)C1C(CN(C1)C(=O)C1CCN(CC1)C(=O)C1(CC1)C)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C31H34Cl2F3N3O4
